* C:\Users\Maneesh kumar\OneDrive\Documents\5KW Buck converter.asc
Vin IN 0 400
L1 N001 OUT 0.5m Rser=0 Rpar=0
C1 OUT 0 200µ
V§J1 N003 N001 PULSE(-5 20 0 1n 1n {D*Ts} {Ts})
R1 OUT 0 2.88
V1 Tc 0 25
R2 N002 N003 2.5
D1 0 N001 D
XU5 IN N002 N001 Tj Tc C2M0025120D
.model D D
.lib C:\Users\Maneesh kumar\AppData\Local\LTspice\lib\cmp\standard.dio
.param D = 0.3
.param Ts = 10u
.tran 0.02
* Vin = 400Vdc Vo = 120Vdc Po = 5000W  fsw = 100KHz
* Notes:\n1) It is the customer's responsibility to operation in the actual prototype.\n2) Modifying circuit may affect the performance of the design.\nCopyright © 2016 Wolfspeed Inc. All rights reserved.
.options Gmin=1e-7 Abstol=1e-7 reltol=1e-2 chgtol=1e-9
.lib C:\Users\Maneesh kumar\Downloads\all files\Wolfspeed_SPICE_Models\Wolfspeed_SPICE_Models\Discretes\C2M0025120D.lib
.backanno
.end
